US08530467B2
A mixture of (R)-tert-butyl 2-(aminomethyl)morpholine-4-carboxylate (0.715 g, 3.31 mmol), DIPEA (0.577 mL, 3.31 mmol), and 1-fluoro-4-methyl-2-nitrobenzene (0.513 g, 3.31 mmol) in MeOH (14 mL) was heated at 140° C. in A microwave reactor for 30 min and then cooled to room temperature. Acetic acid (1.9 mL, 33.1 mmol) was added, followed by zinc (2.162 g, 33.1 mmol). The resulting mixture was stirred at room temperature for 90 min to afford the (R)-tert-butyl 2-((2-amino-4-methylphenylamino)methyl)morpholine-4-carboxylate product (1.06 g), which was used without further purification in the next step. The product was analyzed on analytical HPLC MS using the high pH gradient method (mobile phase: 5-95% B; A: H2O with 10 mM NH4CO3 and 0.375% NH4OH v/v; B: CH3CN; 2.25 min run; X-Bridge C18; column size: 2.1×30 mm; and particle size: 5 μm). MS m/z 322.4 [M+H]+ (ESI), Rt 1.80 min.

reactant | (R)-tert-butyl 2-(aminomethyl)morpholine-4-carboxylate | 3.31 mmol, 0.715 g | NC[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C10H20N2O3
reactant | DIPEA | 3.31 mmol, 0.577 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-fluoro-4-methyl-2-nitrobenzene | 3.31 mmol, 0.513 g | FC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | Acetic acid | 33.1 mmol, 1.9 mL | C(C)(=O)O | C2H4O2
solvent | MeOH | 14 mL | CO | CH4O
catalyst | zinc | 33.1 mmol, 2.162 g | [Zn] | Zn
product | (R)-tert-butyl 2-((2-amino-4-methylphenylamino)methyl)morpholine-4-carboxylate | 1.06 g | NC1=C(C=CC(=C1)C)NC[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C17H27N3O3
